US07378417B2
7-Difluoromethyl-5-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-sulfamoyl-phenyl)-amide
The title compound was prepared from 7-difluoromethyl-5-[3-(2,2,2-trifluoroethoxy)-4-trifluoromethyl-phenyl]-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.13) and 3-sulfamoyl-phenylamine [commercially available] according to general procedure II. Light yellow solid. MS (ISP) 607.9 [(M−H)−]; mp 241° C.

reactant | 7-difluoromethyl-5-[3-(2,2,2-trifluoroethoxy)-4-trifluoromethyl-phenyl]-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC(=C(C=C2)C(F)(F)F)OCC(F)(F)F)F | C17H9F8N3O3
reactant | 3-sulfamoyl-phenylamine | S(N)(=O)(=O)C=1C=C(C=CC1)N | C6H8N2O2S
product | 7-Difluoromethyl-5-[3-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-sulfamoyl-phenyl)-amide | S(N)(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC(=C(C=C2)C(F)(F)F)OCC(F)(F)F | C23H15F8N5O4S
